US06303733B1
Preparation of 4-FLUORO-4′- (4-FLUOROBENZOYL) TOLANE
Into a 250 mL, 3-neck, round-bottom flask equipped with a magnetic stirrer, a thermocouple, and a condenser were placed 12.00 g (100.0 mMol) of 1-ethynyl-4-fluorobenzene, 27.93 g (100.0 mMol) of 4-bromo-4′-fluorobenzophenone (Rieke Metals, Inc.), 1.5 g of tetrakis(triphenylphosphine)palladium[0], and 150 mL of de-aerated triethylamine. The reaction mixture was heated to 80° C. with stirring under argon for 3 hr and then cooled to ambient overnight (16 hr) with stirring. The reaction mixture was filtered to remove a white precipitate of triethylamine hydrobromide. The triethylamine solvent was evaporated and the solids obtained were dissolved in dichloromethane. The resulting solution was washed with water (2×50 mL), 2% HCl (2×50 mL), brine, and then dried over sodium sulfate. After removal of the solvent, the crude 4-fluoro-4′-(4-fluorobenzoyl)tolane was purified by silica gel column chromatography using hexanes as the elutant. White crystals having a melting point of 190-191° C. were obtained in a yield of 81%.

reactant | 1-ethynyl-4-fluorobenzene | 100.0 mMol, 12.00 g | C(#C)C1=CC=C(C=C1)F | C8H5F
reactant | 4-bromo-4′-fluorobenzophenone | 100.0 mMol, 27.93 g | BrC1=CC=C(C(=O)C2=CC=C(C=C2)F)C=C1 | C13H8BrFO
reactant | triethylamine | 150 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-FLUORO-4′- (4-FLUOROBENZOYL) TOLANE | yield of 81% | FC1=CC=C(C=C1)C#CC1=CC=C(C=C1)C(C1=CC=C(C=C1)F)=O | C21H12F2O
